US04927955
An amount of 3.6 g of (R)-3-chloromandelic acid (Bull. Soc. Chim. Fr., 1973, 12, 3330) is reacted with 3.5 g of S(-)-2-amino-7-hydroxytetralin monohydrate (PREPARATION IV) and 7.7 g of BOP in 60 ml of anhydrous methylene chloride under nitrogen stream. An amount of 2.7 ml of triethylamine is added, the solution thus obtained is left under stirring for 5 hours at room temperature, then 400 ml of ethyl acetate are added thereto. After washing with a sodium bicarbonate solution, then with water, then with hydrochloric acid and finally with water, the organic phase is separated and evaporated to dryness. The residue thus obtained is treated with 150 ml of N sodium hydroxide and extracted with ethyl ether that is then eliminated. The aqueous phase is made acid with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulfate, filtered and evaporated to dryness. The oil thus obtained is purified by flash chromatography by eluting with a 70/30 mixture of ethyl acetate/cyclohexane. The N-[(2S)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(R)-3-chloromandelamide, is obtained as a very thick whitish oil that is treated with petroleum ether to give a solid having an indefinite melting point, SR 58587, |alpha|-95° (methanol, c=1%).

reactant | (R)-3-chloromandelic acid | 3.6 g | ClC=1C=C([C@H](C(=O)O)O)C=CC1 | C8H7ClO3
reactant | BOP | 7.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-[(2S)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(R)-3-chloromandelamide | OC1=CC=C2CC[C@@H](CC2=C1)NC([C@H](O)C1=CC(=CC=C1)Cl)=O | C18H18ClNO3
